US05441953
To a stirred, 0° C. solution of 6.0 g (16.6 mmol) of methyl (E)-6-(1,3-dihydro-4-carboxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate in 150 ml of dimethylformamide was added 4.62 ml (33.1 mmol) of triethylamine followed by drop-wise addition of 4.5 ml (21.8 mmol) of diphenylchlorophosphate. The mixture was allowed to stir at room temperature for 1 hour and then recooled to 0° C., and treated with 10.8 g (166 mmol) of sodium azide. This mixture was stirred for 24 hours at 0° C. and then partitioned between aqueous sodium hydrogen sulfate and ethyl acetate. The organic phase was washed four times with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was triturated with hexane to give 5.8 g of methyl (E)-6-(1,3-dihydro-4-isocyanato-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate. A small sample was further purified by rapid silica gel chromatography with an eluant of 1:1 hexane:ethyl acetate followed by recrystallization from hexane-ethyl acetate to give purified methyl (E)-6-(1,3-dihydro-4-isocyanato-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate, mp 95°-101° C.

reactant | methyl (E)-6-(1,3-dihydro-4-carboxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 16.6 mmol, 6.0 g | C(=O)(O)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C19H22O7
reactant | triethylamine | 33.1 mmol, 4.62 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylchlorophosphate | 21.8 mmol, 4.5 ml | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | sodium azide | 166 mmol, 10.8 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | methyl (E)-6-(1,3-dihydro-4-isocyanato-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 5.8 g | N(=C=O)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C19H21NO6
